US04468523
133 g. of vanadium pentoxide was added to a solution prepared from 635 ml of concentrated hydrochloric acid and 340 ml of water and stirred until a homogeneous solution formed. To this solution, 277 g. of titanium tetrachloride was added slowly over a 2 hour period while maintaining the temperature below 40° C. in an inert nitrogen environment. This vanadium-titaninium solution was then added concurrently with 700 ml of an 8 percent solution of ammonium hydroxide solution to 450 ml of water which was cooled in an ice/water bath. The pH of the resulting solution was maintained at 1.4 to 2.0 during the addition of the vanadium-titanium total solution. The pH of the solution was then adjusted to a pH of 5.7, the mixture filtered and the solids thoroughly washed with water and dried at 80° C. in a vacuum oven. The solid was calcined in air at 400° C. for 16 hours to give a vanadium oxide/titanium oxide material. 15.0 g. of the vanadium-titanium solid material was added to 30 ml of a 1N ammonium hydroxide solution which contained 0.625 g. of palladium chloride in solution. This mixture was allowed to stand for 1 hour and then dried at 90° C. in a vacuum oven. The resulting solid was calcined at 400° C. in air for 16 hours to yield a Pd-V2O5 -TiO2 solid catalyst containing as the metal 2.5 percent Pd, 27 percent V and 26 percent Ti.

reactant | vanadium pentoxide | [O-2].[O-2].[O-2].[O-2].[O-2].[V+5].[V+5]
reactant | hydrochloric acid | 635 ml | Cl | ClH
reactant | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | vanadium-titanium | [Ti].[V]
solvent | water | 450 ml | O | H2O
solvent | water | 340 ml | O | H2O
product | vanadium oxide titanium oxide | [O-2].[V+5].[O-2].[O-2].[O-2].[O-2].[V+5].[O-2].[Ti+4].[O-2] | InChI=1S/7O.Ti.2V/q7*-2;+4;2*+5
